US07776857B2
In a 50 mL round bottom flask with a reflux condenser attached was dissolved 2,2-dimethyl-5-((4-(trifluoromethoxy)phenylamino)methylene)-1,3-dioxane-4,6-dione (1.00 g, 3.02 mmol) in Ph2O (8.63 mL, 0.35 M). The mixture was heated to 250° C. in a heating mantle. At about 180° C., the reaction turned from a light yellow and homogeneous to an orange, then to a dark brown color and began to bubble, slowly at first and then more violently. Internal temperature of reaction went up to 230° C., although heating ceased at 180° C. Heating at 250° C. while stirring was continued for five minutes, and the reaction was cooled to RT, diluted with hexane, and the precipitate was filtered to yield 6-(trifluoromethoxy)quinolin-4(1H)-one as a crude brown solid. MS [M+H]=230.1; Calc'd 229.2 for C10H6F3NO2.

reactant | 2,2-dimethyl-5-((4-(trifluoromethoxy)phenylamino)methylene)-1,3-dioxane-4,6-dione | 3.02 mmol, 1.00 g | CC1(OC(C(C(O1)=O)=CNC1=CC=C(C=C1)OC(F)(F)F)=O)C | C14H12F3NO5
solvent | Ph2O | 0.35 M, 8.63 mL | O(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10O
solvent | hexane | CCCCCC | C6H14
product | 6-(trifluoromethoxy)quinolin-4(1H)-one | FC(OC=1C=C2C(C=CNC2=CC1)=O)(F)F | C10H6F3NO2
